US06972287B1
Preparation of 2-[4-(3,4-Dichlorophenyl)phenylamino]benzoic acid
A mixture of 3,4-dichlorophenylboronic acid (880 mg, 2.3 mmol), 2-[(4-iodophenyl)amino]benzoic acid (339 mg, 1 mmol), PdCl2.dppf.CH2Cl2 [1,1′-bis(diphenylphosphino)ferrocene palladium (II) chloride, complexed with dichloromethane (1:1)] (67 mg, 0.082 mmol), K2CO3 (829 mg, 6 mmol), and H2O (2 mL) in dioxane (15 mL) was heated to reflux for 1 hour. The reaction mixture was diluted with EtOAc and filtered. The filtrate was treated with 1N HCl, washed with H2O, brine, dried (Na2SO4), and concentrated in vacuum to give a yellow solid. Purification by flash chromatography (silica gel, 10% MeOH/CH2Cl2) yielded 272 mg (0.76 mmol, 76%) of the desired product. mp>220° C.

reactant | 3,4-dichlorophenylboronic acid | 2.3 mmol, 880 mg | ClC=1C=C(C=CC1Cl)B(O)O | C6H5BCl2O2
reactant | 2-[(4-iodophenyl)amino]benzoic acid | 1 mmol, 339 mg | IC1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C13H10INO2
reactant | CH2Cl2 | 0.082 mmol, 67 mg | C(Cl)Cl | CH2Cl2
reactant | K2CO3 | 6 mmol, 829 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | PdCl2 | Cl[Pd]Cl
catalyst | dppf | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
solvent | H2O | 2 mL | O | H2O
product | 2-[4-(3,4-Dichlorophenyl)phenylamino]benzoic acid | 0.76 mmol, 272 mg, 76% | ClC=1C=C(C=CC1Cl)C1=CC=C(C=C1)NC1=C(C(=O)O)C=CC=C1 | C19H13Cl2NO2
